US07482341B2
N-(6-chloromethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.66 g), methyl-propylamine (0.33 mL), KHCO3 (0.32 g) and a catalytic amount of potassium iodide in acetone (10 mL) were heated to reflux for 6 h. The-reaction mixture was cooled to RT and partitioned between water and AcOEt, the layers were separated, the organic layer dried over MgSO4, filtered and evaporated to give 2,2-dimethyl-N-{6-[(methyl-propyl-amino)-methyl)-pyridin-2-yl}-propionamide (0.75 g) as a brown oil. MS (ESI): 264.3 (MH+).

reactant | N-(6-chloromethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.66 g | ClCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C11H15ClN2O
reactant | methyl-propylamine | 0.33 mL | CNCCC | C4H11N
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2,2-dimethyl-N-{6-[(methyl-propyl-amino)-methyl)-pyridin-2-yl}-propionamide | 0.75 g | CC(C(=O)NC1=NC(=CC=C1)CN(CCC)C)(C)C | C15H25N3O
